US07741341B2
(ii) 5-(2-Hydroxy-ethanesulfonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
360 mg (1.05 mmol) 2-(2-Trichloromethyl-1H-benzoimidazole-5-sulfonyl)-ethanol were added to a mixture of 225.4 mg (1.05 equiv.) 1-isopropyl-piperidine-4-ylamine-dihydrochloride and 880 mg (10 equiv.) NaHCO3 in 6 mL THF and 3 mL H2O and stirred vigorously for 2 h at room temperature. The reaction mixture was diluted with dichloromethane and washed with a saturated NaHCO3-solution and brine. The organic layer was dried over MgSO4 and concentrated. The obtained product was pure enough for further reactions.

reactant | 2-(2-Trichloromethyl-1H-benzoimidazole-5-sulfonyl)-ethanol | 1.05 mmol, 360 mg | ClC(C1=NC2=C(N1)C=CC(=C2)S(=O)(=O)CCO)(Cl)Cl | C10H9Cl3N2O3S
reactant | 1-isopropyl-piperidine-4-ylamine-dihydrochloride | 225.4 mg, 1.05 equiv. | Cl.Cl.C(C)(C)N1CCC(CC1)N
reactant | NaHCO3 | 880 mg, 10 equiv. | C(=O)(O)[O-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(2-Hydroxy-ethanesulfonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1)C=CC(=C2)S(=O)(=O)CCO | C18H26N4O4S
